US05068371
N-[(2,4-Difluorophenyl)methyl]-N-hexyl-2,2-dimethylpentanamide
22.7 g (0.10 mol) of N-hexyl-2,4-difluorobenzylamine and 24.3 g (0.24 mol) of triethylamine are dissolved in 150 ml of diethyl ether. A solution of 17.8 g (0.12 mol) of 2,2-dimethylpentanoyl chloride in 50 ml of diethyl ether is added dropwise at room temperature over the course of 30 minutes. The mixture is stirred for a further 18 hours at room temperature until the reaction is complete (GC check). For work-up, the resultant suspension is adjusted to pH 7 using 70 ml of 2N hydrochloric acid. Everything dissolves, and two phases form, which are separated. The organic phase is washed with 50 ml of water, dried using magnesium sulfate, filtered and evaporated on a vacuum rotary evaporator. 37.8 g of a pale yellow liquid, which is subjected to fractional distillation, are obtained. 21.4 g (63% of theory) of a colourless oil which boils at 126°-127° C. and 0.4 mbar are obtained.

reactant | N-hexyl-2,4-difluorobenzylamine | 0.10 mol, 22.7 g | C(CCCCC)NCC1=C(C=C(C=C1)F)F | C13H19F2N
reactant | triethylamine | 0.24 mol, 24.3 g | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylpentanoyl chloride | 0.12 mol, 17.8 g | CC(C(=O)Cl)(CCC)C | C7H13ClO
reactant | hydrochloric acid | 2N, 70 ml | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | N-[(2,4-Difluorophenyl)methyl]-N-hexyl-2,2-dimethylpentanamide | FC1=C(C=CC(=C1)F)CN(C(C(CCC)(C)C)=O)CCCCCC | C20H31F2NO
